US04735940
A solution of 0.1 g of ethyl-1-[[4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizin-10-yl]carbonyl]-4-piperidinecarboxylate and 0.016 g of sodium hydroxide in 2 ml of methanol was heated under reflux for 3 hours. The mixture was then evaporated in vacuo, the residue was taken up in water and extracted with chloroform. The aqueous phase was made acid with 3N hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over sodium sulfate and evaporated in vacuo, and there was obtained crude 1-[[4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]-quinolizin-10-yl]carbonyl-4-piperidinecarboxylic acid.

reactant | ethyl-1-[[4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizin-10-yl]carbonyl]-4-piperidinecarboxylate | 0.1 g | C(C)OC(=O)C1CCN(CC1)C(=O)C=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C26H26N2O4S
reactant | sodium hydroxide | 0.016 g | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | [4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]-quinolizin-10-yl]carbonyl-4-piperidinecarboxylic acid | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)N1CCC(CC1)C(=O)O)SC=C3 | C24H22N2O4S
